* Schematics Netlist *



R_RBIAS  $N_0001 VDD 20k 
R_RC1    OUT1 VDD 10k 
R_RC2    OUT2 VDD 10k 
R_RS2    $N_0002 0 1k 
R_RS1    $N_0004 $N_0003 1k 
Q_Q3     $N_0001 $N_0001 VEE Q2N2222
Q_Q4     $N_0005 $N_0001 VEE Q2N2222
Q_Q1     OUT1 $N_0003 $N_0005 Q2N2222
Q_Q2     OUT2 $N_0002 $N_0005 Q2N2222
C_CLOAD  OUT1 OUT2 5p 
V_V3     VEE 0 DC -12  
V_V2     VDD 0 DC +12  
V_V1     $N_0004 0 DC .125 AC 1
+SIN 0v 0.1v 5Meg 0 0 0
